US07018988B2
(2S,4EZ)-N-[(1R,2S)-2-(aminocarbonyl)cyclohexyl]-1-[(2′,3-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′,3-dimethyl[1,1′-biphenyl]4-carboxylic acid, and (1S,2R)-2-aminocyclohexanecarboxamide, the title compound was obtained in 91% purity by HPLC. MS(ESI+): m/z=491.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′,3-dimethyl[1,1′-biphenyl]4-carboxylic acid | CC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)C | C15H14O2
reactant | (1S,2R)-2-aminocyclohexanecarboxamide | N[C@H]1[C@H](CCCC1)C(=O)N | C7H14N2O
product | (2S,4EZ)-N-[(1R,2S)-2-(aminocarbonyl)cyclohexyl]-1-[(2′,3-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | NC(=O)[C@@H]1[C@@H](CCCC1)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)C)C | C28H34N4O4
